Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
mantle cell lymphoma/leukemia, admission for C2 HiDaC
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ was noted for an elevated WBC count in ___. 
 In ___ his white cell count increased to ~35,000. PET/CT 
imaging on ___ showed mild to moderate FDG uptake within 
lymphadenopathy of the neck, bilateral axillae, retroperitoneal 
and inguinal areas.  The spleen was diffusely enlarged with mild 
diffuse FDG uptake. Initial peripheral blood smear noted medium 
sized lymphocytes, no smudge cells, some cells (~10%) with more 
open chromatin and nucleoli.  The cells were CD ___ + with CD1 
translocation felt consistent with mantle cell lymphoma. Because 
of the high white count, there was concern for more aggressive 
leukemic component and he was initiated on CHOP on ___ 
with the plan to receive Rituxan with Dr. ___ primary 
oncologist at the time.

Around the same time of this workup, Mr. ___ was seeing his 
ophthalmologist for routine eye care, but also with noted 
changes of vision of the left eye.  He has an accommodating lens 
and was found to  have an occlusion of the distal branch of a 
retinal vein on the left.  Follow up from ___ ophthalmology 
reported Choroidal  cellular infiltrate in the left eye 
concerning for CNS involvement from his Mantle Cell 
lymphoma/leukemia.  He was admitted urgently on ___ for MRI 
imaging and LP, followed by high dose ethotrexate.  MRI imaging 
on ___ showed focal right occipital lobar sulcal 
FLAIR-hyperintensity concerning for subarachnoid hemorrhage, 
although leptomeningeal involvement was possible.  Repeat MRI 
imaging on ___ showed the previous FLAIR-signal 
abnormality but as it is seen only on the post-contrast FLAIR 
images, it is felt consistent with leptomeningeal enhancement, 
concerning for focal lymphomatous spread.  LP done on ___ 
did not have adequate cells for evaluation.  He was seen by Dr. 
___ Neuro-Oncology as well as Dr. ___ 
ophthalmology.  He received an intraocular Avastin injection on 
___ and a second one on ___.  He will be due for ___ 
injection on ___.

Because Mr. ___ has probable leukemic/blastic variant of 
mantle cell lymphoma, he is continuing with aggressive 
treatment. The plan is to alternate R-CHOP with High dose Ara-C 
vs. R-DHAP with high dose methotrexate between each cycle(if 
tolerated by creatinine).

Mr. ___ is being admitted today for his next treatment with 
high dose Ara-C.

Treatment history:
* ___ - C1 CHOP
 * ___ - Admitted urgently due to choroidal cellular
infiltrate in the left eye concerning for CNS involvement from
his Mantle Cell lymphoma/leukemia.  MRI imaging consistent with
this. 
 * ___ - High dose methotrexate, complicated by acute renal
insufficiency with creatinine peaking at 2.2 felt most likely
from precipitation in the renal tubules.  Creatinine has 
trending
downward, stabilizing at 1.5. Discharged on ___.
 * ___ and ___ - Received Rituxan in divided doses
with mild reaction. 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to his age and renal function; received 2 doses on ___, 1 dose
on ___ and 1 dose on ___.  On Neupogen support during nadir,
required transfusion of red cells and platelets.
 * ___ - C2 RCHOP 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to age and renal function.  High dose MTX on hold with renal
insufficiency.
 * ___ - C3 RCHOP

 
Past Medical History:
- Mantle cell lymphoma/leukemia
- Heterozygous for Factor V Leiden and low Protein S activity of
39%, repeated on ___. 
- Hypertension
- Prostate hypertrophy 
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus

Surgical history:
- Appendectomy
- Prostate biopsy (incisional)
- Repair of deviated nasal septum

 
Social History:
___
Family History:
No lymphoma or leukemia in family. Mother had bone cancer, died 
at age ___ she also had ___ disease. Father died at age 
___ with h/o hypertension and stroke. One brother s/p CABG, 
stroke and ETOH use. He has three children, one has diabetes, 
the others are healthy. He has two siblings, one suffered brain 
injury after childhood infection. 
 
Physical Exam:
VS: 97.5 134/72 72 18  oxygen saturation 98% on room air.
GENERAL:  Well-appearing older gentleman in no acute distress.
VITAL SIGNS: Performance status is %90.
HEENT: PERRL, conjunctiva pale, anicteric sclerae, nose clear, 
oropharynx within normal limits  
NECK:  Supple.
LYMPHATICS:  There is no cervical, infraclavicular, or 
supraclavicular adenopathy appreciated. 
LUNGS: Fine rales located bilaterally at lung bases, no 
wheezes/rhonchi  
HEART:  Regular rate and rhythm without murmurs, rubs, or 
gallops.
ABDOMEN:  Soft, nontender, and nondistended with normal bowel
sounds and without hepatosplenomegaly or other masses 
appreciated.
EXTREMITIES:  Without edema.
SKIN:  No rashes. 
NEURO: CNII-XII intact, gait normal, no tremor on signature, 
finger to nose within normal limits

 
Pertinent Results:
On admission:
___ 11:05AM BLOOD WBC-3.2*# RBC-3.04* Hgb-10.4* Hct-29.4* 
MCV-97 MCH-34.1* MCHC-35.2* RDW-19.8* Plt ___
___ 11:05AM BLOOD Neuts-65 Bands-0 ___ Monos-12* 
Eos-1 Baso-2 ___ Metas-1* Myelos-0
___ 11:05AM BLOOD ___ PTT-31.7 ___
___ 11:05AM BLOOD UreaN-24* Creat-1.3* Na-140 K-4.6 Cl-104 
HCO3-27 AnGap-14
___ 11:05AM BLOOD ALT-20 AST-26 LD(LDH)-183 AlkPhos-50 
TotBili-0.4
___ 11:05AM BLOOD Albumin-4.6 Calcium-9.8 Phos-5.1* Mg-2.4 
UricAcd-6.2

On discharge:

___ 07:40AM BLOOD WBC-2.8* RBC-2.47* Hgb-8.4* Hct-24.3* 
MCV-98 MCH-34.2* MCHC-34.7 RDW-19.6* Plt ___
___ 07:40AM BLOOD Neuts-93.1* Lymphs-2.9* Monos-3.8 Eos-0.1 
Baso-0
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-120* UreaN-25* Creat-1.0 Na-142 
K-4.2 Cl-108 HCO3-24 AnGap-14
___ 07:40AM BLOOD ALT-15 AST-16 AlkPhos-41 TotBili-0.3
___ 07:40AM BLOOD Calcium-9.3 Phos-4.6* Mg-2.2
 
Brief Hospital Course:
Mr. ___ hospital course was uneventful. He received HiDaC 
per his primary oncologist's orders. No adverse reactions to the 
the cytarabine were noted. He received three times daily steroid 
eye drops which he is to continue for 48 hours after his 
discharge. His cerebellar exam remained within normal limits 
througout his hospital stay. He did not experience any nausea or 
vomiting. He remained afebrile throughout his entire hospital 
stay. He denied fever, chills, headache, shortness of breath, 
chest pain, nausea, vomiting, diarrhea, rash and bruising on 
admission and discharge. Home medications were continued during 
his hospitalization. He is to follow up at the ___ 7 out 
patient clinic 24 hours after discharge for cell counts and 
Neupogen.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Omeprazole 20 mg PO DAILY:PRN indigestion 
2. Allopurinol ___ mg PO DAILY 
3. Clotrimazole Cream 1 Appl TP BID:PRN rash 
apply to affected area twice daily 
4. Lorazepam 0.5-1 mg PO TID:PRN nausea/anxiety 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
7. Acyclovir 400 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Clotrimazole Cream 1 Appl TP BID:PRN rash 
apply to affected area twice daily 
4. Lorazepam 0.5-1 mg PO TID:PRN nausea/anxiety 
5. Omeprazole 20 mg PO DAILY:PRN indigestion 
6. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID 
continue 48 hours after last dose of cytarabne 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
Mantle cell leukemia/lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___ 
___. You were admitted in order to receive 
chemotherapy for your lymphoma/leukemia. You tolerated the 
chemotherapy very well and experienced no adverse side effects. 
Please take your medications as prescribed and followup with the 
appointments below. You will need to start taking Neupogen 24 
hours after discharge. As your white blood cell count drops we 
recommend you avoid large crowds and ill relatives/friends. If 
you have any further questions feel free to contact your ___ 
providers.
 
Followup Instructions:
___